US07538123B2
(5) 8-(2,3-Dihydroxypropyl)-7-methoxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one
12 ml of t-butanol and 10 ml of water were added to and dissolved in 0.58 g of 8-allyl-7-methoxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one. 2.48 g of AD-mix-β was added to this solution, and the obtained mixture was stirred at room temperature overnight. After confirming the disappearance of raw material, 2.97 g of sodium sulfite was added to the reaction solution, and the obtained mixture was then stirred for approximately 45 minutes. Thereafter, water and chloroform were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol), so as to obtain 0.55 g of the subject compound.

reactant | t-butanol | 12 ml | C(C)(C)(C)O | C4H10O
reactant | water | 10 ml | O | H2O
reactant | AD-mix-β | 2.48 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | sodium sulfite | 2.97 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 8-allyl-7-methoxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one | 0.58 g | C(C=C)C1=C(C=CC=2CN(C(OC21)=O)C)OC | C13H15NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-(2,3-Dihydroxypropyl)-7-methoxy-3-methyl-3,4-dihydro-2H-1,3-benzoxazin-2-one | 0.55 g | OC(CC1=C(C=CC=2CN(C(OC21)=O)C)OC)CO | C13H17NO5
